US05932602
2. 2-(4-nitrophenyl) 6,7 dimethylquinoxaline
0.50 g (3 mmol) 4-nitrophenyl glyoxal was dissolved in 20 ml ethanol. 0.34 g (2.5 mml) 1,2 dimethyl 4,5 diaminobenzene was dissolved in ethanol. The reaction mixture was stirred and refluxed for 1 hour. Product crystallized after cooling, and filtrated washing with ethanol then ether.

reactant | 4-nitrophenyl glyoxal | 3 mmol, 0.50 g | [N+](=O)([O-])C1=CC=C(C=C1)C(=O)C=O | C8H5NO4
reactant | 1,2 dimethyl 4,5 diaminobenzene | 0.34 g | CC1=C(C=C(C(=C1)N)N)C | C8H12N2
solvent | ethanol | 20 ml | C(C)O | C2H6O
product | 2-(4-nitrophenyl) 6,7 dimethylquinoxaline | [N+](=O)([O-])C1=CC=C(C=C1)C1=NC2=CC(=C(C=C2N=C1)C)C | C16H13N3O2
